* tt_analog_ring code sweep: code=64
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.option temp=27.0
.include /work/analog/spice/tt_analog_ring.spice
Vdd VPWR 0 1.2
Ven enable 0 1.2
Vc0 code[0] 0 0
Vc1 code[1] 0 0
Vc2 code[2] 0 0
Vc3 code[3] 0 0
Vc4 code[4] 0 0
Vc5 code[5] 0 0
Vc6 code[6] 0 1.2
Vc7 code[7] 0 0
Xdut code[0] code[1] code[2] code[3] code[4] code[5] code[6] code[7] enable clk_out VPWR 0 tt_analog_ring
Cload clk_out 0 15f
.control
op
let idd = -i(Vdd)
let vbp = v(xdut.vbp)
let vbn = v(xdut.vbn)
echo "OP idd=$&idd vbp=$&vbp vbn=$&vbn"
tran 20p 3u
let thalf = 3u/2
meas tran t1 when v(clk_out)=1.2/2 rise=1 from=$&thalf
meas tran t2 when v(clk_out)=1.2/2 rise=2 from=$&thalf
meas tran t9 when v(clk_out)=1.2/2 rise=9 from=$&thalf
meas tran vout_avg avg v(clk_out) from=$&thalf
.endc
.end
